US05714496
A mixture of 3-[2-(4-(5-methyl-1,2,4-oxadiazole-3-yl)phenyl)ethynyl]-3-hydroxyquinuclidine (0.61 g) and 5% Pd on carbon (60 mg) in ethanol (100 ml) was hydrogenated at atmospheric pressure for 4 hours. The mixture was filtered and the filtrate was evaporated. The residue was purified by flash chromatography on silica gel eluting with 10% methanol in dichloromethane containing 1% ammonia (density, 0.88 g/cm3), to give 3-[2-(4-(5-methyl-1,2,4-oxadiazol-3-yl)phenyl)ethyl]-3-hydroxyquinuclidine (0.15 g) as a solid, m.p. 165°-167° C.; NMR: 1.2-2.1(7H,m), 2.9-2.65(8H,m), 2.65(3H,s), 4.5(1H,s), 7.4(2H,d) and 7.9(2H,d); m/z 314 (M+H).

reactant | 3-[2-(4-(5-methyl-1,2,4-oxadiazole-3-yl)phenyl)ethynyl]-3-hydroxyquinuclidine | 0.61 g | CC1=NC(=NO1)C1=CC=C(C=C1)C#CC1(CN2CCC1CC2)O | C18H19N3O2
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | Pd on carbon | 60 mg | [Pd] | Pd
product | 3-[2-(4-(5-methyl-1,2,4-oxadiazol-3-yl)phenyl)ethyl]-3-hydroxyquinuclidine | 0.15 g | CC1=NC(=NO1)C1=CC=C(C=C1)CCC1(CN2CCC1CC2)O | C18H23N3O2
